US07186716B2
To a mixture of 1H-pyrrole-3-carboxylic acid ethyl ester (2 g, 14.4 mmol) (synthesized from 1H-pyrrole-3-carboxylic acid suing the same procedure as in Example 30) and 2-chloronicotinoyl chloride (4.4 mg, 25 mmol) in dry benzene (10 mL) at 0° C. was added dropwise a solution of tin (IV) chloride (0.7 g) in dry benzene (5 mL). The mixture was allowed to warm up slowly to room temperature and stirred for overnight. The reaction was diluted with ethyl acetate, washed with brine and concentrated. The residue was purified on a silica gel column to give 402 mg (10%) of 4-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-3-carboxylic acid ethyl ester.

reactant | 1H-pyrrole-3-carboxylic acid ethyl ester | 14.4 mmol, 2 g | C(C)OC(=O)C1=CNC=C1 | C7H9NO2
reactant | 1H-pyrrole-3-carboxylic acid | N1C=C(C=C1)C(=O)O | C5H5NO2
reactant | 2-chloronicotinoyl chloride | 25 mmol, 4.4 mg | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | tin (IV) chloride | 0.7 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-3-carboxylic acid ethyl ester | 402 mg, 10% | C(C)OC(=O)C1=CNC=C1C(=O)C=1C(=NC=CC1)Cl | C13H11ClN2O3
